US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine-2-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine-2-carboxylic acid (0.078 g, 0.466 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile (0.1 g, 0.359 mmol). The product was purified by recrystallization from acetonitrile and by flash-chromatography, respectively. Yield 53.3%. 1H-NMR (400 MHz; CDCl3): δ 1.19 (d, 3H), 2.26-2.34 (m, 2H), 4.18-4.34 (m, 5H), 4.41 (dd, 1H), 4.52-4.62 (m, 1H), 6.01 (s, 1H), 6.62 (d, 1H), 7.50 (d, 1H), 7.66 (d, 1H), 7.70-7.75 (m, 21-1).

reactant | 6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine-2-carboxylic acid | 0.466 mmol, 0.078 g | N1=C(C=C2OCCCN21)C(=O)O | C7H8N2O3
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-6-fluorobenzonitrile | 0.359 mmol, 0.1 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)Cl)C | C13H12ClFN4
product | (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine-2-carboxamide | Yield 53.3% | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NN2C(OCCC2)=C1 | C20H18ClFN6O2
